2156-10-26 05:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2156-10-25**] 01:00 PM
   - Got NGT, in place, started aggressive Lactulose, with positive result
   --> stooling, flexiseal placed
   - Got 2U FFP for INR 1.9
   - Got 1U Plts for plts 72
   - 7pm labs: Chem normal. CBC with Hct 26.0, Plts 85, Coags
   20.2/39.5/1.9
   - MN labs: Hct 24.3, Plts 72 (transfused), Coags 19.3/37.7/INR 1.8
   (down from 1.9)
   [**10-25**]
   - Darmouth Hitchcock in [**Location (un) 573**] OSH records (please find actual
   records in the front of green chart). Summarized:
   [**8-/2153**]: RUQ u/s: portal HTN, also findings suggesting pancreatitis.
   Persistent CBD dilatation, persistent cholelithiasis
   [**8-/2153**] MRI abdomen: cholelithiasis, extensive dilatation of intra and
   extra-hepatic bile ducts, can't optimally see pancreas
   [**7-/2153**] MD office note: MELD 32 --> 19 and Childs 13 --> 8. Bili
   originally 27 on presentation, down to 6.3. WBC's persistently elevated
   at 8. Plts 74k, Hct 26 --> 33. Pt endorsing sobriety. MD encouraging
   him to get into transplant program.
   [**6-/2153**]: Had previously had GI endoscopy with grade I varices, severe
   portal HTN gastropathy, started Nadolol 20mg qday (low dose due to low
   MAP 78 at baseline).
   [**6-/2153**]: MD had made contact with transplant at [**Name (NI) 49**] who deferred until
   he was sober for 6 mos.
   [**6-/2153**]: [**Last Name (un) **] Ab negative, HBcAb non reactive, HBsAb indeterminate,
   HBsAg negative, HCV Ab negative, anti mitochondrial Ab negative, [**Doctor First Name **]
   negative, TTG Ab high.
   [**5-/2153**]: First hospitalized in FL, did well for 5 yrs, then hospitalized
   again in [**2152**] with ascites and jaundice, sudden over 1wk, also hep
   encephalopathic then, Dx'd at that time with ESLD and Tx'd with
   Rocephin, Lactulose, Protonix and Trental.
   [**4-/2153**]: Abd u/s showing 1. ESLD, shrunken liver, large spleen,
   extensive ascites, varices. 2. CBD upper limit of normal size. GB wall
   thickened and gallstone present
   Allergies:
   Citalopram
   shakiness
   reso
   Last dose of Antibiotics:
   Ceftriaxone - [**2156-10-25**] 08:20 PM
   Azithromycin - [**2156-10-25**] 08:50 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2156-10-25**] 09:30 AM
   Insulin - Regular - [**2156-10-25**] 02:54 PM
   Pantoprazole (Protonix) - [**2156-10-25**] 07:49 PM
   Diazepam (Valium) - [**2156-10-25**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2156-10-26**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.1
C (98.7
   HR: 90 (84 - 97) bpm
   BP: 140/58(83) {134/54(77) - 172/77(105)} mmHg
   RR: 12 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 90.2 kg (admission): 82 kg
           Total In:
                                                                  3,680 mL
                                                                    478 mL
   PO:
                                                                     45 mL
           TF:
   IVF:
                                                                  2,003 mL
                                                                    127 mL
   Blood products:
                                                                  1,162 mL
                                                                    201 mL
   Total out:
                                                                  1,273 mL
                                                                    420 mL
   Urine:
                                                                    998 mL
                                                                    320 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
   Balance:
                                                                  2,407 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 718 (615 - 718) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 10 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/42/83/26/0   yesterday morning
   Ve: 7.5 L/min
   PaO2 / FiO2: 207
   Physical Examination
   Awoken and answers questions, opens eyes slightly and briefly but keeps
   them closed during exam. Answers appropriately, follows commands. NGT
   in place. Large ecchymose on L shoulder, also large one on his back.
   Lungs with upper airway expiratory rhonchi. 3/6 systolic murmur at RUSB
   and along the apex. Abd distended, hypertympanic, but not tender to
   palpation. BLE
s with pitting edema up to the knee that decreases in
   the thigh.
   Labs / Radiology
   72 K/uL
   9.1 g/dL
   131 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.9 mEq/L
   11 mg/dL
   110 mEq/L
   143 mEq/L
   24.3 %
   7.0 K/uL
        [image002.jpg]
   More recent labs from this am are pending
                            [**2156-10-24**]  03:53 PM
                            [**2156-10-24**]  08:00 PM
                            [**2156-10-24**]  10:51 PM
                            [**2156-10-25**]  02:00 AM
                            [**2156-10-25**]  02:21 AM
                            [**2156-10-25**]  02:35 AM
                            [**2156-10-25**]  09:36 AM
                            [**2156-10-25**]  10:53 AM
                            [**2156-10-25**]  07:11 PM
                            [**2156-10-25**]  11:56 PM
   WBC
   6.6
   6.3
   6.0
   5.8
   7.0
   Hct
   20.8
   24.7
   23.6
   24.7
   26.0
   24.3
   Plt
   85
   98
   89
   94
   85
   72
   Cr
   0.7
   0.7
   0.6
   TCO2
   27
   26
   Glucose
   137
   146
   174
   155
   131
   Other labs: PT / PTT / INR:19.3/37.7/1.8   (from yesterday, this am
   pending), ALT / AST:23/43  ([**10-24**]) , Alk Phos / T Bili:119/20.0
   (yesterday, Ibili 14.0 and Dbili 6.0), Differential-Neuts:64.9 %,
   Band:0.0 %, Lymph:23.9 %, Mono:8.7 %, Eos:2.3 %, D-dimer:[**Numeric Identifier 9337**] ng/mL,
   Fibrinogen:199 mg/dL, Lactic Acid:1.8 mmol/L, Ca++:9.1 mg/dL, Mg++:2.0
   mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: lipase normal
   Ddimer [**Numeric Identifier 9337**]  on [**10-24**]
   hapto <20 on [**10-23**]
   Dilantin level pending
   Imaging: RUQ u/s pending this am
   [**10-25**] CXR with mild/mod pulm edema, stable retrocardiac opacity with L
   pleural effusion
   [**10-25**] CT head
   IMPRESSION: Unchanged size and appearance of right frontal lobe
   hemorrhage. No new areas of hemorrhage seen.
   [**10-23**] CT thorax
   IMPRESSION:
   1. No traumatic injury to the abdomen or pelvis. No intra- or
   retro-peritoneal bleed.
   2. Cirrhosis and evidence of portal hypertension. No ascites.
   3. Cholelithiasis.
   4. Intra- and extrahepatic biliary ductal dilation.
   5. Diverticulosis. No evidence of diverticulitis.
   Microbiology: [**10-25**] Cdiff pending
   [**10-25**] sputum with OP flora
   Bcx and Ucx negative to date
   Assessment and Plan
 .H/O ALCOHOL ABUSE
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 CIRRHOSIS OF LIVER, ALCOHOLIC
 TRAUMA, S/P
   Assessment and Plan: This is a 46 year old male with a history of
   alcohol abuse and end stage liver disease who was admitted to the
   trauma serivce on [**2156-10-23**] after falling down the stairs in his home
   and suffering multiple fractures now transferred to the MICU service
   for management of end stage liver disease and altered mental status.
   Altered Mental Status: DDx: primary neurologic processes related to his
   intracranial hemorrhage versus hepatitic encephalopathy due to trauma,
   infection, or GI bleed. Blood and urine cultures are pending.  No stool
   cultures sent.  No ascites on abdominal CT for paracentesis.
   - NGT in place for Lactulose currently getting, titrate to [**2-11**] stools
   per day per liver recs
   - Keep NPO and use NGT for all meds
   - Have started Rifaximin
   - Will get RUQ u/s this am but per OSH notes, has had persistent
   biliary tree duct dilatation, intra and extra hepatic, in the past
   - Will obtain MRCP once able to lay still
   - blood and urine cultures pending
   - stool Cdiff pending
   - per neuro surgery will attempt to maintain SBP < 160, INR < 1.5, Plts
   > 80 in the setting of intracranial hemorrhage
   - appreciate neurosurgical consult
   End stage liver disease: Outside records without evidence of HepB or C
   infection, some autoimmune serologies negative as well. Thought now to
   be secondary to alcohol abuse.  Still drinking.  Unclear baseline
   hepatic function.
   - F/u with hepatology today
   - IV PPI
   - RUQ ultrasound today
   - holding diuretics
   - aggressive lactulose/rifaximin
   - aggressive control of coagulopathy given intraparenchymal hemorrhage
   Concern for GI Bleed: Was guaic positive and Hct trending down.  Recent
   stools are not bright red nor melenic. Intraparenchymal hemorrhage
   appears stable on repeat CT's.
   - Has 18g and 20g x2
   - Keep active T&S --> send new one today
   - Hct's [**Hospital1 **]
   - Transfuse for active bleeding or Hct <21
   - Try to maintain INR <1.5 and Plts >80 although will be difficult in
   liver pt
   Respiratory Failure/Pneumonia:  Patient intubated for airway
   protection.  Now breathing well on nasal cannula with evidence of new
   infiltrate on CXR.
   - wean oxygen as tolerated
   - ceftriaxone/azithromycin for pneumonia, day [**1-17**]
   - consider broadening coverage if pt spikes fevers
   Intraparenchymal Hemorrhage: Now stable on two subsequent CT scans.
   Neurosurgery is following.
   - continue dilantin for seizure prophylaxis
   - dilantin level in the AM
 needs to be followed up
   - Q4H neurochecks
   - repeat head CT in AM
   - will target INR < 1.5, platelets > 80, SBP < 160
   Anemia/? DIC:  Patient with low haptoglobin, small schistocytes,
   elevated d-dimer, concerning for DIC although this is difficult to
   assess in patient's with liver disease. Patient also with grossly
   guaiac positive stools with negative NG lavage.
   - Heme consult
   - Look through OSH records and establish baseline Hct
   - Send for manual smear
   - Q8H hematocrits, platelets, coags
   - will treat with platelets, FFP, PRBCs as necessary, as above
   - goals hct > 21, platelets > 80, INR < 1.5
    Transverse Process Fractures: Per surgery are non-operative.  Does not
   need cervical collar or log roll precautions.
   - no further management needed
   Shallow Toe Ulcer: No signs of current infection.
   - local wound care
    Peripheral Arterial Disease: Dopplerable pulses.  Healing ulcer on
   right great toe which does not appear infected.
   - local wound care
   - consider vascular consult
   DM2: On SSI
   FEN: No IVF, replete electrolytes, regular diet
   Prophylaxis: Not on subQ heparin given above issues
   Access: 2 peripherals, arterial line
   Code:  Full
   Communication: Patient, [**Name (NI) 2255**] [**Telephone/Fax (1) 9357**].  Other family numbers:
   [**Doctor First Name 1515**] [**Telephone/Fax (1) 9358**], and [**Telephone/Fax (1) 9359**]
   Disposition: If stable through today can likely call out.